US05834401
Preparation of N-(2,5-difluorophenyl)-2-(1,1-dioxo-5-phenylthiazolidin-4-on-3-yl)isobutyramide (Compound No. D-6)
To a solution of N-(2,5-difluorophenyl)-2-(5-phenylthiazolidin-4-on-3-yl)isobutyramide (1.3 g) prepared according to Example 13 in dichloromethane (25 mL) was added portionwise 70% m-chloroperbenzoic acid (1 g) under ice-cooling, and the mixture was stirred for 30 minutes at room temperature. After adding a small amount of sodium thiosulfate, the mixture was diluted with chloroform and washed with a saturated sodium hydrogencarbonate aqueous solution. After distilling off the solvent under reduced pressure, the resulting crude product was purified by preparative thin-layer chromatography (developing solvent: chloroform/ethyl acetate=3/1) to give crystals, which were washed with a mixture of isopropyl ether-ethanol (10:1) to give 0.26 g of the title compound as crystals.

reactant | N-(2,5-difluorophenyl)-2-(5-phenylthiazolidin-4-on-3-yl)isobutyramide | 1.3 g | FC1=C(C=C(C=C1)F)NC(C(C)(C)N1CSC(C1=O)C1=CC=CC=C1)=O | C19H18F2N2O2S
reactant | m-chloroperbenzoic acid | 1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(2,5-difluorophenyl)-2-(1,1-dioxo-5-phenylthiazolidin-4-on-3-yl)isobutyramide | 0.26 g | FC1=C(C=C(C=C1)F)NC(C(C)(C)N1CS(C(C1=O)C1=CC=CC=C1)(=O)=O)=O | C19H18F2N2O4S
